US06358945B1
A mixture of N-acetyl oxindole (2.0 g, 11.4 mmol), iodomethane (1.56 mL, 25.1 mmol) and potassium carbonate (3.1 g, 22.8 mmol) in DMSO (20 mL) was stirred at room temperature for 20 h. The reaction mixture was diluted with water. The resulting solids were filtered, washed with water and dried to give N-acetyl dimethyl oxindole as an orange solid (1.9 g, 84%).

reactant | N-acetyl oxindole | 11.4 mmol, 2.0 g | C(C)(=O)N1C(CC2=CC=CC=C12)=O | C10H9NO2
reactant | iodomethane | 25.1 mmol, 1.56 mL | IC | CH3I
reactant | potassium carbonate | 22.8 mmol, 3.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-acetyl dimethyl oxindole | 1.9 g, 84% | C(C)(=O)N1C(C(C2=CC=CC=C12)(C)C)=O | C12H13NO2
